US07138425B2
c) 2-[4-Methoxy-5-[5-(3,4-methylenedioxyphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-methoxyphenyl)-5-(3,4-methylenedioxyphenyl)benzoxazole (50 mg, 0.14 mmol) and 1,2,4-benzenetricarboxylic anhydride (27 mg, 0.14 mmol) the title compound was obtained (72 mg, 92%). 1H NMR (DMSO) δ 13.85(s, 1H), 8.44(dd, 1H), 8.33(s, 1H), 8.21(d, 1H), 8.11(d, 1H), 8.02(d, 1H), 7.83(d, 1H), 7.71(dd, 1H), 7.66(dd, 1H), 7.47(d, 1H), 7.35(d, 1H), 7.22(dd, 1H), 7.03(d, 1H), 6.08(s, 2H), 4.03(s, 3H). MS 535.1 m/z (M+H)+.

reactant | 2-(3-amino-6-methoxyphenyl)-5-(3,4-methylenedioxyphenyl)benzoxazole | 0.14 mmol, 50 mg | NC=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC1=C(C=C2)OCO1 | C21H16N2O4
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.14 mmol, 27 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Methoxy-5-[5-(3,4-methylenedioxyphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro1H-isoindole-5-carboxylic acid | COC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C2=CC1=C(C=C2)OCO1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O | C30H18N2O8
